US08703768B2
Step 1: Methyl 3-(bis(tert-butoxycarbonyl)amino)-6-(prop-1-en-2-yl)pyrazine-2-carboxylate
The product was obtained starting from methyl 3-(bis(tert-butoxycarbonyl)amino)-6-bromopyrazine-2-carboxylate (1.13 g, 2.61 mmol) and 2-isopropenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (672 μl, 3.4 mmol) according to the method described in example A-1, step 1 after extraction with ethyl acetate and purification by silica gel chromatography using a heptane/ethyl acetate gradient as yellow viscous oil (323 mg, 31%).

reactant | methyl 3-(bis(tert-butoxycarbonyl)amino)-6-bromopyrazine-2-carboxylate | 2.61 mmol, 1.13 g | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)Br)C(=O)OC)C(=O)OC(C)(C)C | C16H22BrN3O6
reactant | 2-isopropenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 3.4 mmol, 672 μl | C(=C)(C)B1OC(C(O1)(C)C)(C)C | C9H17BO2
product | Methyl 3-(bis(tert-butoxycarbonyl)amino)-6-(prop-1-en-2-yl)pyrazine-2-carboxylate | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)C(=C)C)C(=O)OC)C(=O)OC(C)(C)C | C19H27N3O6
